US05998433
a) Synthesis of 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one
To a solution of 0.250 g (1.566 mmol) of 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride, 0.33 g (1.7 mmol) of 6-phenylhexanoic acid and 0.87 ml (6.3 mmol) of triethylamine in 30 ml of dichloromethane, 0.36 ml (2.4 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[3,2-c]pyridine hydrochloride | 1.566 mmol, 0.250 g | Cl.O1C=CC=2CNCCC21
reactant | 6-phenylhexanoic acid | 1.7 mmol, 0.33 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | triethylamine | 6.3 mmol, 0.87 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 2.4 mmol, 0.36 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one | O1C=CC=2CN(CCC21)C(CCCCCC2=CC=CC=C2)=O | C19H23NO2
